US07605269B2
A solution of (1S, 5R)-2-(1-chloro-(E)-ethylidene)-6,6-dimethyl-bicyclo[3.1.0]hexan-3-one (997 mg, 5.40 mmol) and thioacetic acid S-cyanomethyl ester (746 mg, 6.48 mmol) in THF (37 mL) is treated with 2 N aq. NaOH (10.8 mL). The resulting mixture is stirred vigorously at rt for 2 h. Another portion of thioacetic acid S-cyanomethyl ester (100 mg, 0.87 mmol) and 2 N aq. NaOH (2 mL) is added and stirring is continued for 1 h. The reaction mixture is diluted with 2 N aq. NaOH and extracted twice with DCM. The organic extracts are dried over Na2SO4 and evaporated. The remaining brown oil is dissolved in THF (30 mL) and treated with 2 N aq. NaOH (3 mL). The mixture is heated to 90° C. for 4 h before it is diluted with 2 N aq. NaOH and extracted with DCM. The organic extracts are dried over Na2SO4 and evaporated. The crude product is purified by prep. HPLC (Phenomenex Aqua 30×75 mm, gradient 10 to 95% acetonitrile in water containing 0.5% formic acid) to give (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopro-pa[a]pentalene-4-carbonitrile (650 mg) as a brown oil; LC-MS: tR=1.06 min, [M+1+CH3CN]+=245.11; 1H NMR (CDCl3): δ 2.90 (dd, J=5.9, 18.8 Hz, 1H), 2.68 (d, J=18.8 Hz, 1H), 2.38 (s, 3H), 1.96-1.88 (m, 2H), 1.13 (s, 3H), 0.72 (s, 3H).

reactant | (1S, 5R)-2-(1-chloro-(E)-ethylidene)-6,6-dimethyl-bicyclo[3.1.0]hexan-3-one | 5.40 mmol, 997 mg | Cl\C(\C)=C\1/[C@@H]2C([C@@H]2CC1=O)(C)C | C10H13ClO
reactant | thioacetic acid S-cyanomethyl ester | 6.48 mmol, 746 mg | C(#N)CSC(C)=O | C4H5NOS
reactant | thioacetic acid S-cyanomethyl ester | 0.87 mmol, 100 mg | C(#N)CSC(C)=O | C4H5NOS
solvent | THF | 37 mL | C1CCOC1 | C4H8O
solvent | NaOH | 2 N | [OH-].[Na+]
solvent | NaOH | 2 N, 2 mL | [OH-].[Na+]
solvent | NaOH | 2 N, 10.8 mL | [OH-].[Na+]
product | (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopro-pa[a]pentalene-4-carbonitrile | 650 mg | CC1([C@@H]2[C@H]1CC1=C(SC(=C21)C)C#N)C | C12H13NS
